US05929072
A suspension of 1-(2-chloroethyl)-3,4-dihydro-8-fluoro-3-(1-methylethyl)-1H-2,1,3-benzothiadiazine-2,2-dioxide (1.35 g), 4-(6-fluoroindol-3-yl)-1,2,5,6-tetrahydropyridine (31.45 g, 6.7 mmol) and Na2CO3 (3.6 g, 34.6 mmol) in water (8 ml) was heated at 100° C. under argon atmosphere for 30 hours. After cooling to room temperature the product was extracted with dichloromethane. The organic phase was dried over Na2SO4 and evaporated to dryness. The crude mixture was purified by flash chromatography using as eluent CH2Cl2 /MeOH (97:3) yielding 3,4-dihydro-8-fluoro-1-{2-[4-(6-fluoroindol-3-yl)-1,2,5,6-tetrahydro-1-pyridyl]-1-ethyl}-3-(1-methylethyl)-1H-2,1,3-benzothiadiazine-2,2-dioxide as a pale brown solid.

reactant | 1-(2-chloroethyl)-3,4-dihydro-8-fluoro-3-(1-methylethyl)-1H-2,1,3-benzothiadiazine-2,2-dioxide | 1.35 g | ClCCN1S(N(CC2=C1C(=CC=C2)F)C(C)C)(=O)=O | C12H16ClFN2O2S
reactant | 4-(6-fluoroindol-3-yl)-1,2,5,6-tetrahydropyridine | 6.7 mmol, 31.45 g | FC1=CC=C2C(=CNC2=C1)C1=CCNCC1 | C13H13FN2
reactant | Na2CO3 | 34.6 mmol, 3.6 g | C(=O)([O-])[O-].[Na+].[Na+]
solvent | water | 8 ml | O | H2O
product | 3,4-dihydro-8-fluoro-1-{2-[4-(6-fluoroindol-3-yl)-1,2,5,6-tetrahydro-1-pyridyl]-1-ethyl}-3-(1-methylethyl)-1H-2,1,3-benzothiadiazine-2,2-dioxide | FC1=CC=CC=2CN(S(N(C21)CCN2CC=C(CC2)C2=CNC1=CC(=CC=C21)F)(=O)=O)C(C)C | C25H28F2N4O2S
